US09428509B2
4-((4-Isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-5-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-methylbenzamide
To a degassed mixture of 2-chloro-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-5-(4-(1-((2-(trimethylsilyl)-ethoxy)methyl)-1H-imidazol-2-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), 4-amino-3-methoxybenzamide (1.2 equiv) and cesium carbonate (3.0 equiv) in 1,4-dioxane (0.07 M) was added palladium acetate (0.1 equiv) and 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl (0.3 equiv). The reaction was stirred at 100° C. for 3 h. After the reaction was complete, the reaction mixture was cooled to room temperature and concentrated. The residue was purified by silica gel chromatography (0-2% DCM in MeOH) to afford the crude title compound (60% yield) as a yellow solid. MS (ESI) m/z 758.2 [M+1]+.

reactant | 2-chloro-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-5-(4-(1-((2-(trimethylsilyl)-ethoxy)methyl)-1H-imidazol-2-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C=C2)C=2N(C=CN2)COCC[Si](C)(C)C)COCC[Si](C)(C)C)OC(C)C | C30H44ClN5O3Si2
reactant | 4-amino-3-methoxybenzamide | 1.2 equiv | NC1=C(C=C(C(=O)N)C=C1)OC | C8H10N2O2
reactant | cesium carbonate | 3.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.3 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | 1,4-dioxane | 0.07 M | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-((4-Isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-5-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-methylbenzamide | 60% yield | C(C)(C)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC)C=C1)OC)N(C=C2C2=CC=C(C=C2)C=2N(C=CN2)COCC[Si](C)(C)C)COCC[Si](C)(C)C | C39H55N7O5Si2
